US08119627B2
1-(Thiophene-2-carbonyl)-piperidin-4-one HVB01116 C10H11NO2S, MW 209.26
4-piperidone hydrochloride monohydrate (0.32 g, 2.1 mmol) was dissolved in DCM (7 ml), and to this was added MP-Carbonate resin (0.8 g). This was stirred at room temperature for 2 h. Separately, 2-thiophenecarboxylic acid (0.32 g, 2.52 mmol), N,N-4-dimethylaminopyridine (cat.), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (1.2 g, 6.3 mmol) and TEA (0.25 ml) were dissolved in DCM (7 ml) and stirred at room temperature for 2 h. The 2 reaction mixtures were then combined and stirred at room temperature for 18 h. The resulting solution was then filtered and washed with HCl (1M), sodium bicarbonate then brine. The organic layers were combined and dried over MgSO4 and evaporated to dryness. The crude mixture was purified using flash chromatography (0-100% ethyl acetate in hexane), to yield a white solid. 220 mg, (56%), mp. 81-83° C., LCMS tr=2.29 min (50% MeOH and 50% water at 0.5 ml/min), m/z M+H 210.11, HPLC tr=1.89 min (Isocratic 90% acetonitrile and 10% water at 1.0 ml/min), 100%, 1HNMR (CDCl3, 270 MHz) δ 2.47 (4H, t, J=6.2 Hz, CH2), 3.94 (4H, t, J=6.4 Hz, CH2), 7.00 (1H, dd, J=3.5, 4.9 Hz, ArH), 7.31 (1H, dd, J=1.2, 3.7 Hz, ArH), 7.43 (1H, dd, J=1.2, 4.9 Hz, ArH).

reactant | 4-piperidone hydrochloride monohydrate | 2.1 mmol, 0.32 g | O.Cl.N1CCC(CC1)=O
reactant | MP-Carbonate resin | 0.8 g | CC[NH+](CC)CC.CC[NH+](CC)CC.C(=O)([O-])[O-]
reactant | 2-thiophenecarboxylic acid | 2.52 mmol, 0.32 g | S1C(=CC=C1)C(=O)O | C5H4O2S
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 6.3 mmol, 1.2 g | Cl.CN(CCCN=C=NCC)C
solvent | DCM | 7 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 7 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
solvent | acetonitrile | C(C)#N | C2H3N
solvent | MeOH | CO | CH4O
product | 1-(Thiophene-2-carbonyl)-piperidin-4-one | S1C(=CC=C1)C(=O)N1CCC(CC1)=O | C10H11NO2S
